data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_610908_2,[C:1]1([H:11])([H:12])[C:4](=[O:9])[N:7]([N:8]([H:10])[H:17])[C:6]1([C:5](=[C:2]([H:15])[H:16])[C:3]([H:14])([H:18])[H:19])[H:13]>>[C:1]([C:4](/[N:7]=[N:8]\[H:10])=[O:9])([C:6](=[C:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:14])([H:18])[H:19])[H:13])([H:11])[H:12],66.0387274999863
MR_182107_0,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[N:5]\[H:11])[C:6]([N:4]([H:9])[H:10])([N:7]([C:3]([H:16])([H:17])[H:18])[H:8])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([H:9])[H:10])([N:5]([H:8])[H:11])/[C:6](=[N:7]/[C:3]([H:16])([H:17])[H:18])[H:12],48.61556249999538
MR_627290_0,[C:1]([O:5][C:3]([N:2]([H:7])[H:8])([N:6]=[O:4])[H:9])([H:10])([H:11])[H:12]>>[C:1]([O:5][O:4]/[N:6]=[C:3](/[N:2]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12],59.1293249999886
MR_43302_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:10])[H:11])([N:7]([C:2]([H:12])([H:13])[H:14])[H:8])[H:9])=[O:6]>>[C:1]([C:3]([H:15])([H:16])[H:17])(/[C:4]([N:5]([H:10])[H:11])=[N:7]\[C:2]([H:12])([H:13])[H:14])([O:6][H:8])[H:9],37.14799999998476
MR_157376_2,[C:1]([N:2]([H:9])[H:10])([C:3]([O:5][H:8])([O:6][H:7])[H:11])=[O:4]>>[C:1]([N:2]([H:9])[H:10])([C:3](=[O:6])[H:11])([O:4][H:7])[O:5][H:8],39.9309624999853
MR_511248_1,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([O:6]/[C:3]([N:5]([H:11])[H:12])=[N:8]/[O:7][H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C@@:3]([N:5]([H:11])[H:12])([N:8]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])[O:7][H:10])[O:6]1,61.1881524999626
MR_177596_0,[C:1](/[C:3]([N:4]([H:8])[H:9])=[N:6]/[C:2]([H:12])([H:13])[H:14])([N:5]=[O:7])([H:10])[H:11]>>[C:1](=[C:3]([N:4]([H:8])[H:9])[N:6]([C:2]([H:12])([H:13])[H:14])[N:5]=[O:7])([H:10])[H:11],26.39641500002128
MR_639960_1,[C:1]1([O:7][H:10])([H:13])[C:4]([H:17])([H:18])[C:2]([O:8][H:11])([H:14])[C:6](=[O:9])[C:3]([H:15])([H:16])[N:5]1[H:12]>>[C:1]([C:4]([C:2]([C:6]([C:3]([N:5]([H:10])[H:12])([H:15])[H:16])=[O:9])([O:8][H:11])[H:14])([H:17])[H:18])(=[O:7])[H:13],50.52190749999767
MR_391729_0,[C:1]1([C:2]([N:4]([H:9])[H:12])([N:5]([H:10])[H:11])[H:8])([H:7])[C:3]([H:13])([H:14])[O:6]1>>[C@@:1]1([C:2]([N:4]([H:9])[H:12])([N:5]([H:10])[H:11])[H:8])([H:7])[C:3]([H:13])([H:14])[O:6]1,67.64010750000949
MR_618009_1,[C@@:1]([N:2]([H:10])[H:11])(/[C:3](=[N:6]\[O:4][H:7])[H:12])([O:5][H:8])[H:9]>>[C@@:1]1([N:2]([H:10])[H:11])([H:9])[C@:3]([O:5][H:8])([H:12])[N:6]1[O:4][H:7],53.900367499992825
MR_57089_0,[C:1](/[C:4](=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])[O:7][C:3]([N:5]([H:9])[H:10])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C:6]([C:2]([H:15])([H:16])[H:17])([C:3]([N:5]([H:9])[H:10])=[O:8])[H:11])=[O:7])([H:12])([H:13])[H:14],61.66003249998397
MR_476094_2,[C:1]1([H:13])([H:14])[N:2]2[C:4]1([N:5]([H:11])[H:12])[C:3]([O:8][H:9])=[C:7]([H:16])[C:6]2([H:10])[H:15]>>[C:1]1([H:13])([H:14])[N:2]([H:10])[C:6]([H:15])=[C:7]([H:16])[C:3]([O:8][H:9])=[C:4]1[N:5]([H:11])[H:12],43.14125250001268
MR_407932_0,[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[N:3]1[H:4]>>[C:1](\[C:2]([H:6])([H:7])[H:8])(=[N:3]/[H:4])[H:5],70.31576749999559
MR_174048_2,[C:1]1([N:4]([H:8])[H:9])([H:7])[N:2]([H:6])[C:3]1=[C:5]([H:10])[H:11]>>[C:1](=[N:2]\[H:6])(\[C:3](=[C:5]([H:10])[H:11])[H:7])[N:4]([H:8])[H:9],72.95817000001215
MR_89575_1,[C:1]([N:6]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])([N:8]=[C:7]([C:4]([H:17])([H:18])[H:22])[C:5]([H:19])([H:20])[H:21])([H:9])[H:10]>>[C:1](=[N:8][C:7]([C:4]([H:17])([H:18])[H:22])([C:5]([H:19])([H:20])[H:21])[N:6]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])([H:9])[H:10],57.659092499990976
MR_388809_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([N:4]([O:5][H:8])[O:6][H:9])[O:7][H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([N:4]([O:5][H:8])[O:7][H:10])[O:6][H:9],71.33043500000198
MR_19922_2,[C:1]1([H:12])([H:13])[C:3]([H:16])([H:17])[C:2]([N:6]([H:10])[H:11])([H:14])[C:4]1([N:5]([H:8])[H:9])[O:7][H:15]>>[C:1]([C:3]([C:2]([N:6]([H:10])[H:11])([H:14])[H:15])([H:16])[H:17])([C:4]([N:5]([H:8])[H:9])=[O:7])([H:12])[H:13],56.42480000000404
MR_566182_0,[C:1](/[C:4]([C:3]([N:2]([N:5]([H:9])[H:10])[H:8])=[O:7])=[N:6]\[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4](/[C:3](=[N:2]/[N:5]([H:8])[H:10])[O:7][H:9])=[N:6]\[H:11])([H:12])([H:13])[H:14],61.1366974999855
MR_64507_0,[C:1]1([H:11])([H:12])[C@:5]([C:2]([H:14])([H:15])[H:16])([C@:6]([C:3]([H:17])([H:18])[H:19])([C:4]([O:8][H:10])=[O:9])[H:13])[O:7]1>>[C:1]([C:4]([O:8][H:10])=[O:9])([O:7]/[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6](/[C:3]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12],49.613915000042965
MR_129054_1,[C:1]([N:3](/[C:4](=[C:7](/[N:6]([H:11])[H:12])[H:13])[O:8][H:10])[C:5]([C:2]([H:17])([H:18])[H:19])=[O:9])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:4](\[C@:7]([C:5]([C:2]([H:17])([H:18])[H:19])=[O:9])([N:6]([H:11])[H:12])[H:13])[O:8][H:10])([H:14])([H:15])[H:16],44.86750500004163
